US07601722B2
To a stirring solution of 1-(4-chloro-2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (100 mg, 0.335 mmol), tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate (147 uL, 0.67 mmol), and triphenylphosphine (176 mg, 0.67 mmol) in anhydrous tetrahydrofuran was added diisopropylazodicarboxylate (130 uL, 0.67 mmol) and the solution stirred, capped, at room temperature for 18 hr. The reaction mixture was concentrated then loaded directly onto silica gel and purified via Isco chromatography (Redisep, silica, gradient 0-35% ethyl acetate in hexane to afford 1-(4-chloro-2-fluorophenyl)-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide carbamic acid tert-butyl ester as an orange colored wax. This material was dissolved in diethyl ether and methanol and 2N HCl in diethyl ether was added a precipitate formed. The mixture was filtered to afford impure product. This material was dissolved in DMSO and purified by Gilson RP-HPLC (YMC CombiPrep ProC18 50×20 mm I.D. column, S-5□m, 12 nm. Flow rate 20 mL/min. Gradient: 10/90 Acetonitrile/Water to 100% acetonitrile over 10 minutes then hold for three minutes at 100% acetonitrile and ramp back to 10/90 acetonitrile/water over two minutes) to give 0.089 g of 1-(4-chloro-2-fluorophenyl)-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide as an orange solid.

reactant | 1-(4-chloro-2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.335 mmol, 100 mg | ClC1=CC(=C(C=C1)N1S(NC2=C1C=CC=C2)(=O)=O)F | C12H8ClFN2O2S
reactant | tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate | 0.67 mmol, 147 uL | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
reactant | triphenylphosphine | 0.67 mmol, 176 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.67 mmol, 130 uL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-chloro-2-fluorophenyl)-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O.ClC1=CC(=C(C=C1)N1S(N(C2=C1C=CC=C2)CCC2CCNCC2)(=O)=O)F | InChI=1S/C19H21ClFN3O2S.C5H11NO2/c20-15-5-6-17(16(21)13-15)24-19-4-2-1-3-18(19)23(27(24,25)26)12-9-14-7-10-22-11-8-14;1-5(2,3)8-4(6)7/h1-6,13-14,22H,7-12H2;1-3H3,(H2,6,7)
